US05679696
Cyclopentyl bromide (38.7 g, 0.26 mol) is added slowly (over 1 hour) to a stirred suspension of potassium carbonate (41.4 g, 0.3 mol) in N,N-dimethylformamide (200 mL) containing methyl 3-hydroxy-4-nitrobenzoate (39.4 g, 0.2 mol) at 65° C. and then the stirring is continued for 4 hours. The mixture is allowed to cool and then filtered. The filtrate is diluted with water (700 mL) containing sodium chloride (50 g) and then extracted with toluene (3×200 mL). The combined organic extract is washed with 1N sodium hydroxide solution (1×200 mL) and then water (2×200 mL) and then evaporated under reduced pressure to give methyl 3-cyclopentyloxy-4-nitrobenzoate (54.2 g, 100%) as a pale green solid which is used without further purification.

reactant | Cyclopentyl bromide | 0.26 mol, 38.7 g | C1(CCCC1)Br | C5H9Br
reactant | potassium carbonate | 0.3 mol, 41.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 3-hydroxy-4-nitrobenzoate | 0.2 mol, 39.4 g | OC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C8H7NO5
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | methyl 3-cyclopentyloxy-4-nitrobenzoate | 54.2 g, 100% | C1(CCCC1)OC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C13H15NO5
